US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (500 mg, 1.70 mmol) in dichloromethane (30 ml) was treated with 1,1′-carbonyldiimidazole (272 mg, 1.70 mol) and the solution was stirred at room temperature for 1 hour. The N′-hydroxy-2-methoxyethanimidamide (J.Med.Chem,; 40; 8; 1997; 1230-1246) (177 mg, 1.70 mmol) was then added and the mixture was stirred for 17 hours. The solvent was removed under reduced pressure and the residue was heated neat at 120° C. under a nitrogen atmosphere for 2 hours. The crude product was then purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1) to afford the title compound as an oil (350 mg).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 1.70 mmol, 500 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1,1′-carbonyldiimidazole | 1.70 mol, 272 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N′-hydroxy-2-methoxyethanimidamide | 1.70 mmol, 177 mg | ON=C(COC)N | C3H8N2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-6-cyclohexyl-3-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 350 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COC | C20H34N2O4
